US04163853
(-)-3-Phenoxy-N-[2-(2-thienyl)ethyl]morphinan
The above base, 3.0 g. (0.007 mol) in ether was treated with sulfuric acid. The crude sulfate was recrystallized from methanol-ether to give 1.8 g. (49%) of pure (-)-3-phenoxy-N-[2-(2-thienyl)ethyl]morphinan sulfate, m.p. 135°-138°, [α]D25 =-67.28° (c 1.00, MeOH).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | (-)-3-phenoxy-N-[2-(2-thienyl)ethyl]morphinan sulfate | S(=O)(=O)(O)O.O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CCC=3SC=CC3
reactant | MeOH | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | (-)-3-Phenoxy-N-[2-(2-thienyl)ethyl]morphinan | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CCC=3SC=CC3 | C28H31NOS
